US07772378B2
(13) 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl-ethynyl)-benzyl]-benzene
The compound was obtained starting from 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene and 5-iodo-1-methyl-1H-pyridin-2-one.

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21ClO6
reactant | 5-iodo-1-methyl-1H-pyridin-2-one | IC=1C=CC(N(C1)C)=O | C6H6INO
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC1=CN(C(C=C1)=O)C | C27H26ClNO7
